US07053212B2
Step A: Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amide
A solution of [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (119 mg, 0.3 mmol) and triethylamine (0.125 mL, 0.90 mmol) in methylene chloride was added to a vial charged with cyclohexanecarbonyl chloride (88 mg, 0.6 mmol). The reaction mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium bicarbonate was added until the solution was basic and the layers were separated. The aqueous layer was washed with methylene chloride. The organic layers were combined and evaporated under a stream of nitrogen to give the title compound of Step A.

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 0.3 mmol, 119 mg | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C24H32N2O3
reactant | triethylamine | 0.90 mmol, 0.125 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 0.6 mmol, 88 mg | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amide | N1(CCCC1)CCOC1=CC=C(C=C1)N(C(=O)C1CCCCC1)CC1=CC(=CC=C1)OC1OCCCC1 | C31H42N2O4
